US07863446B2
Synthesis of 6-[4-(methylsulfonyl)phenyl]-5-phenyl-4-[4-(1,3-thiazol-2-yl methyl)piperazin-1-yl]-2-(trifluoromethyl)pyrimidine
To a solution of 6-[4-(methylsulfonyl)phenyl]-5-phenyl-4-piperazin-1-yl-2-(trifluoromethyl)pyrimidine (0.2 g, 0.43 mmol, prepared according to the procedure described in preparation 2) in dichloroethane (25 ml) was added thiazole-2-carboxaldehyde (0.144 g, 1.3 mmol) under stirring at 37° C. After five minutes, sodium triacetoxy borohydride (0.364 g, 1.72 mmol) was added to reaction mixture and then after 10 minutes, acetic acid (0.1 ml) was added to it. The reaction mixture was stirred for 36 hours under the same conditions. Subsequently the reaction mixture was treated with ethyl acetate:water (1:1, 100 ml) and extracted with ethyl acetate (50 ml×3). The organic layer was washed with brine (100 ml) and dried over anhydrous sodium sulphate. The solid obtained upon evaporation was purified by column chromatography using methanol:dichloromethane (0.5:99.5) as an eluent to afford the title compound (0.11 g, yield 45.6%). 1H-NMR (CDCl3) δ: 0.88-0.89 (m, 2H), 1.25-1.28 (t, 2H), 1.33-1.38 (t, 2H), 2.85 (s, 6H), 2.97 (s, 3H), 7.04-7.74 (m, 9H). MS m/z: 544.59 (M++1).

reactant | 6-[4-(methylsulfonyl)phenyl]-5-phenyl-4-piperazin-1-yl-2-(trifluoromethyl)pyrimidine | CS(=O)(=O)C1=CC=C(C=C1)C1=C(C(=NC(=N1)C(F)(F)F)N1CCNCC1)C1=CC=CC=C1 | C22H21F3N4O2S
reactant | thiazole-2-carboxaldehyde | 1.3 mmol, 0.144 g | S1C(=NC=C1)C=O | C4H3NOS
reactant | sodium triacetoxy borohydride | 1.72 mmol, 0.364 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
solvent | dichloroethane | 25 ml | ClC(C)Cl | C2H4Cl2
solvent | ethyl acetate water | 100 ml | C(C)(=O)OCC.O
product | 6-[4-(methylsulfonyl)phenyl]-5-phenyl-4-[4-(1,3-thiazol-2-yl methyl)piperazin-1-yl]-2-(trifluoromethyl)pyrimidine | 0.11 g, yield 45.6% | CS(=O)(=O)C1=CC=C(C=C1)C1=C(C(=NC(=N1)C(F)(F)F)N1CCN(CC1)CC=1SC=CN1)C1=CC=CC=C1 | C26H24F3N5O2S2
